US08426417B2
Step (a). 2-(2-iodo-pyrimidin-4-yl)-4-oxo-1-(2,2,2-trifluoro-ethyl)-1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-5-carboxylic acid tert-butyl ester
To a well stirred suspension of 2-(2-amino-pyrimidin-4-yl)-4-oxo-1-(2,2,2-trifluoro-ethyl)-1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-5-carboxylic acid tert-butyl ester prepared as reported in Example 9 (180 mg, 0.43 mmol) in dimethoxyethane (10 mL) under N2, cesium iodide (170 mg, 0.65 mmol), bisublimated iodine (83 mg, 0.33 mmol), copper iodide (37 mg, 0.20 mmol) and isopentyl nitrite (0.13 mL, 0.98 mmol) were added in sequence. The reaction mixture was stirred vigorously at 80° C. for 4 hours. After cooling in a ice-water bath, the solid was filtered off. The filtrate was diluted with dichloromethane (100 mL), washed with 30% ammonium hydroxide (50 mL), sodium thiosulphate (50 mL), brine (50 mL), dried over anhydrous Na2SO4 and concentrated. Purification by flash chromatography on silica gel (eluant: dichloromethane/hexane 1/1) afforded 80 mg (35%) of the title compound as solid.

reactant | 2-(2-amino-pyrimidin-4-yl)-4-oxo-1-(2,2,2-trifluoro-ethyl)-1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-5-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(C2=C(CC1)N(C(=C2)C2=NC(=NC=C2)N)CC(F)(F)F)=O | C18H20F3N5O3
reactant | cesium iodide | 0.65 mmol, 170 mg | [I-].[Cs+]
reactant | iodine | 0.33 mmol, 83 mg | II | I2
reactant | isopentyl nitrite | 0.98 mmol, 0.13 mL | N(=O)OCCC(C)C | C5H11NO2
solvent | dimethoxyethane | 10 mL | C(OC)COC | C4H10O2
catalyst | copper iodide | 0.20 mmol, 37 mg | [Cu](I)I
product | 2-(2-iodo-pyrimidin-4-yl)-4-oxo-1-(2,2,2-trifluoro-ethyl)-1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-5-carboxylic acid tert-butyl ester | 80 mg, 35% | C(C)(C)(C)OC(=O)N1C(C2=C(CC1)N(C(=C2)C2=NC(=NC=C2)I)CC(F)(F)F)=O | C18H18F3IN4O3
